US06544985B2
(4-Chloro-5-dimethylamino-2-{3-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J1) and 3-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K9) according to the general procedure M. Obtained as a yellow solid (205 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | 3-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)COC)=O | C18H21NO5
product | (4-Chloro-5-dimethylamino-2-{3-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)COC)=O)=O | C27H31ClN4O6
